US06809110B2
In analogy to the procedure described in example 10 d], [rac]-3-(4-{2-[2-(4-chloro-phenyl)-4-methyl-thiazol-5-yl]-ethoxy}-2-methyl-phenyl)-2-ethoxy-propionic acid ethyl ester was treated with LiOH to obtain [rac]-3-(4-{2-[2-(4-chloro-phenyl)-4-methyl-thiazol-5-yl]-ethoxy}-2-methyl-phenyl)-2-ethoxy-propionic acid as light yellow solid.

reactant | [rac]-3-(4-{2-[2-(4-chloro-phenyl)-4-methyl-thiazol-5-yl]-ethoxy}-2-methyl-phenyl)-2-ethoxy-propionic acid ethyl ester | C(C)OC(C(CC1=C(C=C(C=C1)OCCC1=C(N=C(S1)C1=CC=C(C=C1)Cl)C)C)OCC)=O | C26H30ClNO4S
reactant | LiOH | [Li+].[OH-]
product | [rac]-3-(4-{2-[2-(4-chloro-phenyl)-4-methyl-thiazol-5-yl]-ethoxy}-2-methyl-phenyl)-2-ethoxy-propionic acid | ClC1=CC=C(C=C1)C=1SC(=C(N1)C)CCOC1=CC(=C(C=C1)CC(C(=O)O)OCC)C | C24H26ClNO4S
